US07553851B2
2-(1-Azabicyclo[2.2.2]oct-3-yl)-N-(8-nitro-2-naphthyl)acetamide hydrochloride
200 mg (0.97 mmol) of 1-azabicyclo[2.2.2]oct-3-ylacetic acid hydrochloride are heated under reflux in 2 ml (27.42 mol) of thionyl chloride for 2 h. The mixture is then freed of excess thionyl chloride in vacuo, and the residue is taken up in 4 ml of DMF. 0.54 ml (3.89 mmol) of triethylamine, 59.4 mg (0.4 mmol) of DMAP and 183.0 mg (0.97 mmol) of 8-nitro-2-naphthylamine are added to this solution. After reaction overnight and purification by preparative HPLC, the resulting product fractions are mixed With 1 M hydrochloric acid and concentrated in vacuo. Recrystallization of the residue from isopropanol and drying under high vacuum result in 59 mg (15% of theory) of the title compound.

reactant | 1-azabicyclo[2.2.2]oct-3-ylacetic acid hydrochloride | 0.97 mmol, 200 mg | Cl.N12CC(C(CC1)CC2)CC(=O)O
reactant | thionyl chloride | 27.42 mol, 2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | triethylamine | 3.89 mmol, 0.54 ml | C(C)N(CC)CC | C6H15N
reactant | 8-nitro-2-naphthylamine | 0.97 mmol, 183.0 mg | [N+](=O)([O-])C=1C=CC=C2C=CC(=CC12)N | C10H8N2O2
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.4 mmol, 59.4 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-(1-Azabicyclo[2.2.2]oct-3-yl)-N-(8-nitro-2-naphthyl)acetamide hydrochloride | Cl.N12CC(C(CC1)CC2)CC(=O)NC2=CC1=C(C=CC=C1C=C2)[N+](=O)[O-] | InChI=1S/C19H21N3O3.ClH/c23-19(10-15-12-21-8-6-13(15)7-9-21)20-16-5-4-14-2-1-3-18(22(24)25)17(14)11-16;/h1-5,11,13,15H,6-10,12H2,(H,20,23);1H
